US08076336B2
1-(3-Bromo-4,5-dimethoxyphenyl)ethanone
3-Bromo-4,5-dimethoxybenzoic acid (2.0 g) was converted to the benzamide derivative analogously to O3.043, and the latter was converted to the title compound analogously to O2.059. 1.22 g of the title compound were obtained.

reactant | 3-Bromo-4,5-dimethoxybenzoic acid | 2.0 g | BrC=1C=C(C(=O)O)C=C(C1OC)OC | C9H9BrO4
reactant | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
product | 1-(3-Bromo-4,5-dimethoxyphenyl)ethanone | BrC=1C=C(C=C(C1OC)OC)C(C)=O | C10H11BrO3
